US08487108B2
Step 6. (R)-tert-butyl 3-((R)-1-(2-aminoethoxy)-1-(3-chlorophenyl)ethyl)piperidine-1-carboxylate
A mixture of (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)ethyl)piperidine-1-carboxylate (0.6792 g, 1.32 mmol) and hydrazine monohydrate (2.350 g) in ethanol (20 mL) was heated at 100° C. for 19 h and then cooled to rt. The precipitates were filtered off and washed with CH2Cl2. After the filtrate was evaporated under reduced pressure, the crude (R)-tert-butyl 3-((R)-1-(2-aminoethoxy)-1-(3-chlorophenyl)ethyl)piperidine-1-carboxylate (0.410 g, 81%) was used in the next step without further purification. MS ESI +ve m/z 385 (M+H).

reactant | (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)ethyl)piperidine-1-carboxylate | 1.32 mmol, 0.6792 g | ClC=1C=C(C=CC1)[C@](C)(OCCN1C(C2=CC=CC=C2C1=O)=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C28H33ClN2O5
reactant | hydrazine monohydrate | 2.350 g | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (R)-tert-butyl 3-((R)-1-(2-aminoethoxy)-1-(3-chlorophenyl)ethyl)piperidine-1-carboxylate | NCCO[C@@](C)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C20H31ClN2O3
